US05321139
Step 2: Phenylitaconic anhydride (formula 7, R3 =R4 =H)
2.3 l (approx. 2.49 kg, approx. 24.4 mol) of acetic anhydride are added at 20° C. to a solution of 2.28 kg (11.1 mol) of (E)-phenylitaconic acid in 5.7 l of THF. The mixture is stirred for 5 hours at room temperature. After 1 hour there is a clear light yellow solution; after 3 hours the product begins to crystallize out. The THF is removed under vacuum, 5.0 l of methyl tert-butyl ether are added to the residue in order to complete the crystallization, and the product is filtered off with suction. It is washed with MTB ether, dried with suction and dried under vacuum at 40° C. Yield: 1.68 kg (8.94 mol, 81% of theory), m.p. 167°-170° C.

reactant | acetic anhydride | approx. 24.4 mol, 2.3 l, approx. 2.49 kg | C(C)(=O)OC(C)=O | C4H6O3
reactant | (E)-phenylitaconic acid | 11.1 mol, 2.28 kg | C1(=CC=CC=C1)/C=C(/C(=O)O)\CC(=O)O | C11H10O4
solvent | THF | 5.7 l | C1CCOC1 | C4H8O
product | Phenylitaconic anhydride | C1(=CC=CC=C1)C=C1C(=O)OC(C1)=O | C11H8O3
